US06897225B1
4-Carboxymethyl-6-(4-bromobenzyl)-8-(3,5-dichlorophenyl)-1,4,8-triazabicyclo[4.3.0]nonane-7,9-dione
To a solution of 4-(tert-butoxycarbonylmethyl)-6-(4-bromobenzyl)-8-(3,5-dichlorophenyl)-1,4,8-triazabicyclo[4.3.0]nonane-7,9-dione (0.080 g) in CH2Cl2 (10 mL) was added TFA (0.10 mL). Additional TFA (0.5 mL) was added after 3 and 22 hours. After stirring for 48 hours, the mixture was concentrated and purified by chromatography (Silica gel: 8% MeOH/CH2Cl2, Chromatotron) afforded the titled compound. (0.083 g). MS (m/z) 526 (MH+). mp 236.5° C.

reactant | 4-(tert-butoxycarbonylmethyl)-6-(4-bromobenzyl)-8-(3,5-dichlorophenyl)-1,4,8-triazabicyclo[4.3.0]nonane-7,9-dione | 0.080 g | C(C)(C)(C)OC(=O)CN1CCN2C(N(C(C2(C1)CC1=CC=C(C=C1)Br)=O)C1=CC(=CC(=C1)Cl)Cl)=O | C25H26BrCl2N3O4
reactant | TFA | 0.10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-Carboxymethyl-6-(4-bromobenzyl)-8-(3,5-dichlorophenyl)-1,4,8-triazabicyclo[4.3.0]nonane-7,9-dione | C(=O)(O)CN1CCN2C(N(C(C2(C1)CC1=CC=C(C=C1)Br)=O)C1=CC(=CC(=C1)Cl)Cl)=O | C21H18BrCl2N3O4
